US04450169
3.1 g of (2-phenoxy-5-thiazolyl)-methanol were added to a solution of (1R,3S) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylic acid chloride prepared from 2.9 g of the corresponding acid [described in French Pat. No. 70-00265 published under No. 2.076.204] in 45 ml of benzene and 1.2 ml of pyridine were added dropwise thereto at 10° C. The mixture was stirred at 20° C. for 17 hours and was poured into dilute aqueous hydrochloric acid solution. The decanted aqueous phasewas extracted with ether and the combined organic phases were washed with water, dried and evaporated to dryness under reduced pressure. The residuewas chromatographed over silica gel and was eluted with a 7-3 hexane-isopropyl ether mixture to obtain 1.3 g of (2-phenoxy-5-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylate meltingat less than 50° C.

reactant | (2-phenoxy-5-thiazolyl)-methanol | 3.1 g | O(C1=CC=CC=C1)C=1SC(=CN1)CO | C10H9NO2S
reactant | (1R,3S) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylic acid chloride | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)Cl)C | C12H17ClO
reactant | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | (2-phenoxy-5-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-1-carboxylate | 1.3 g | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)OCC1=CN=C(S1)OC1=CC=CC=C1)C | C22H25NO3S
